US07989633B2
Cyclobutylmethyl 5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate
960 mg (2.82 mmol) of cyclobutylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate are dissolved with 279 mg (2.82 mmol) of 4-aminopent-3-en-2-one in 10 ml of ethanol and heated under reflux under argon for 24 h. The solvent is removed in vacuo, and the residue is purified by preparative HPLC. Concentration of the product fractions and crystallization from ethyl acetate result in 532 mg (44% of theory) of the title compound as a white solid.

reactant | cyclobutylmethyl 2-[(2-methyl-4-oxo-4H-chromen-8-yl)methylene]-3-oxobutanoate | 2.82 mmol, 960 mg | CC=1OC2=C(C=CC=C2C(C1)=O)C=C(C(=O)OCC1CCC1)C(C)=O | C20H20O5
reactant | 4-aminopent-3-en-2-one | 2.82 mmol, 279 mg | NC(=CC(C)=O)C | C5H9NO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Cyclobutylmethyl 5-acetyl-2,6-dimethyl-4-(2-methyl-4-oxo-4H-chromen-8-yl)-1,4-dihydro-pyridine-3-carboxylate | C(C)(=O)C=1C(C(=C(NC1C)C)C(=O)OCC1CCC1)C=1C=CC=C2C(C=C(OC12)C)=O | C25H27NO5
